US04652566
[Preparation of 2-carbamoyl-6-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}benzofuran by process 1]
The procedures of Example 8a were repeated except that 1.2 g (0.005 mole) of 2-carbamoyl-6-(2,3-epoxypropoxy)benzofuran and 1.1 g (0.0055 mole) of 1-(2-methoxyphenyl)piperazine were employed to give the desired compound.

reactant | 2-carbamoyl-6-(2,3-epoxypropoxy)benzofuran | 0.005 mole, 1.2 g | C(N)(=O)C=1OC2=C(C1)C=CC(=C2)OCC2CO2 | C12H11NO4
reactant | 1-(2-methoxyphenyl)piperazine | 0.0055 mole, 1.1 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 2-carbamoyl-6-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}benzofuran | C(N)(=O)C=1OC2=C(C1)C=CC(=C2)OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O | C23H27N3O5
